US08212045B2
To a solution of 2-((trimethylsilyl)ethynyl)pyridin-3-yl acetate (9.5 g, 41 mmol) in THF (200 mL) was added water (25 ml). The reaction was cooled to 0° C. and TBAF (1M, 45 ml, 45 mmol) was added. The mixture warmed to ambient temperature and stirred for 1 hour. Water (100 mL) was added and the volume was reduced by half. The product was extracted into ether (3×100 mL), washed with brine and dried over MgSO4. The solution was concentrated in vacuo to afford 2-ethynylpyridin-3-yl acetate (5.5 g, 34 mmol) as a light brown oil.

reactant | 2-((trimethylsilyl)ethynyl)pyridin-3-yl acetate | 41 mmol, 9.5 g | C(C)(=O)OC=1C(=NC=CC1)C#C[Si](C)(C)C | C12H15NO2Si
reactant | water | 25 ml | O | H2O
reactant | TBAF | 45 mmol, 1M, 45 ml | CCCC[N+](CCCC)(CCCC)CCCC.[F-]
reactant | Water | 100 mL | O | H2O
solvent | THF | 200 mL | C1CCOC1 | C4H8O
product | 2-ethynylpyridin-3-yl acetate | 34 mmol, 5.5 g | C(C)(=O)OC=1C(=NC=CC1)C#C | C9H7NO2
